US05883106
G. Ethyl 4(5-fluoro3-hydroxyphenyl)-3,4,5,6-tetrahydro-2H-pyran-4-carboxylate
A mixture of ethyl 4-[3-(benzyloxy)-5-fluorophenyl]-3,4,5,6-tetrahydro-2H-pyran-4-carboxylate (2.70 g, 7.5 mmol) and 10% palladium on activated carbon (0.27 g) in ethanol (100 ml) was stirred under a hydrogen atmosphere for 3.25 hr. Catalyst was removed by filtration and evaporation of the filtrate gave the titled compound as a colorless liquid (2.01 g, quantitative yield).

reactant | ethyl 4-[3-(benzyloxy)-5-fluorophenyl]-3,4,5,6-tetrahydro-2H-pyran-4-carboxylate | 7.5 mmol, 2.70 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)F)C1(CCOCC1)C(=O)OCC | C21H23FO4
catalyst | palladium on activated carbon | 0.27 g | [Pd] | Pd
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Ethyl 4(5-fluoro3-hydroxyphenyl)-3,4,5,6-tetrahydro-2H-pyran-4-carboxylate | 2.01 g, quantitative yield | FC=1C=C(C=C(C1)C1(CCOCC1)C(=O)OCC)O | C14H17FO4
